US04818273
Preparation of N-(2,6-dichloro-3-methylphenyl)-7-ethoxy-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
Sodium (0.69 g, 30 mmol) was added to about 50 ml of ethanol and allowed to react. The mixture was allowed to cool and then 4.0 g (9.8 mmol) of N-(2,6-dichloro-3-methylphenyl)-7-chloro-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide was added with stirring. After 15 minutes to starting material remained by thin layer chromatographic analysis although complete solution was never attained. The mixture was acidified with 6N hydrochloric acid and concentrated under reduced pressure. The residue was triturated with water and the solid removed by filtration and washed with water. It was then dissolved in aqueous sodium hydroxide using a minimum amount of the base and the aqueous solution was twice extracted with ether and acidified with 6N hydrochloric acid. The solid that formed was collected by filtration, washed with water, and dried. This was extracted with about 500 ml of boiling chloroform. The chloroform solution was concentrated to about 150 ml and allowed to cool to form a precipitate which was collected by filtration and dried to obtain 1.7 g (42 percent of theory) of the title compound as a white solid, m.p. 228°-9° C.

reactant | Sodium | 30 mmol, 0.69 g | [Na] | Na
reactant | N-(2,6-dichloro-3-methylphenyl)-7-chloro-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 9.8 mmol, 4.0 g | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2Cl)C)=N1 | C13H10Cl3N5O2S
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | ethanol | about 50 ml | C(C)O | C2H6O
product | N-(2,6-dichloro-3-methylphenyl)-7-ethoxy-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2OCC)C)=N1 | C15H15Cl2N5O3S
